US06653303B1
Synthesis of N-(Phenylacetyl)-L-leucine iso-Butyl Ester
N-Phenylacetyl-L-leucine (0.0081 g, 0.038 mmol) was dissolved in 2.0 ML CHCl3 (EtOH free) and iso-butyl alcohol (0.055 mL) and treated with P-EPC (100 mg, 0.87 milliequivalents). The mixture was rotated for 4 days, filtered through a plug of cotton and the filtrate evaporated at reduced pressure to an oil which was sufficiently pure for testing.

reactant | N-Phenylacetyl-L-leucine | 0.038 mmol, 0.0081 g | C1(=CC=CC=C1)CC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | iso-butyl alcohol | 0.055 mL | C(C(C)C)O | C4H10O
product | N-(Phenylacetyl)-L-leucine iso-Butyl Ester | C(C(C)C)OC([C@@H](NC(CC1=CC=CC=C1)=O)CC(C)C)=O | C18H27NO3
